Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing / Cardizem / Morphine / Vancomycin / 
Penicillins / Propofol Analogues / glucose gel / gabapentin / 
Nortriptyline / nystatin
 
Attending: ___.
 
Chief Complaint:
Cervical Cord Compression
 
Major Surgical or Invasive Procedure:
___: anterior cervical spine decompression

 
History of Present Illness:
___ year old Male presents with progressive weakness and back 
pain after sustaining a fall 2 weeks and then 2 days prior to 
admission. The patient notes that his weakness and pain have 
progressed over the last several weeks although his family tells 
me symptoms started in ___, and that he fell due to the 
weakness 2 days prior to admission. He denies cauda-equina 
symptoms. In the fall 2 days prior to admission he did have a 
frontal head strike, where he struck the night stand. He did not 
have LOC or post-concussive symptoms. He reports severe pain in 
both shoulders/clavicles and is unable to raise his arms past 90 
degrees. He has had chronic weakness of the right foot with foot 
drop, which is worse.

In the ED they were concerned for cervical cord compression as 
they elicited myelopathy signs on exam, so an urgent C/T Spine 
MRI was performed and orthospine was consulted. The MRI was 
positive for cord compression, and so will require decompression 
and fusion of the C-Spine. The patient will require medical 
optimization prior to going to surgery.

In the ED initial vitals were: 97.8, 149/57, 71, 97%.
 
Past Medical History:
CAD  
--s/p MI ___ with PCI to LAD ___  
--s/p CABGx4 ___ (Lima-LAD, SVG-D1, SVG-OM, SVG-PDA), after 
pre-op cath before arthroplasty revealed 3VD  
Type 2 DM on insulin  
Hypertension
Hyperlipidemia
Obesity  
trivial MR ___ on ___ ___ that was otherwise normal with 
EF>55%)  
chronic peripheral edema  
proteinuria and CKD (baseline Cr 1.4)  
depression  
glaucoma  
tobacco use  
peripheral neuropathy  
low back pain  
s/p lumbar spinal fusion ___  
s/p lumbar laminectomy ___  
s/p lipoma excision from right forearm ___  
s/p removal of bone spurs from knees bilaterally  
s/p right hip arthroplasty ___
 
Social History:
___
Family History:
Father-CAD
Mother-Type 2 DM
 
Physical Exam:
ADMISSION:
Vitals - T: 97.6 BP: 118/68 HR: 64 02 sat: 100%RA  
GENERAL: Mildly uncomfortable but well appearing man sitting up 
in bed in NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, NECK: JVP to ear  
CARDIAC: RRR, soft heart sounds, no murmurs, gallops, or rubs  
LUNG: End expiratory rhonchi with no wheeze or crackles, reduced 
breath sounds throughout  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: ___ with bilateral purplish hue, warm to touch, 2+ 
edema bilaterally to knees  
PULSES: Reduced pedal pulses bilaterally, 2+ popliteal pulse 
bilaterally  
BACK: Minimal tenderness to palpation over lumbar spine  
NEURO: CN II-XII intact, moving extremities equally against 
gravity  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE:
PHYSICAL EXAM:  
Vitals - 97.3, 70, 115/79, 98% on RA
GENERAL: alert and awake
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, NECK: surgical dressings c/d/i
CARDIAC: RRR, soft heart sounds, no murmurs, gallops, or rubs  
LUNG: decreased breath sounds at L>R baseline  
ABDOMEN: obese, NT, no rebound or guarding  
SKIN: warm and well perfused, no excoriations or lesions, 
erythema bilaterally of feet  
Ext: trace pitting edema bilaterally to ankles, TEDS in place

 
Pertinent Results:
ADMISSION LABS:

___ 10:42PM BLOOD WBC-11.1* RBC-3.82* Hgb-11.1* Hct-32.0* 
MCV-84 MCH-29.0 MCHC-34.6 RDW-15.3 Plt Ct-UNABLE TO 
___ 10:42PM BLOOD Neuts-68 Bands-0 Lymphs-17* Monos-9 Eos-3 
Baso-1 Atyps-2* ___ Myelos-0
___ 10:42PM BLOOD ___ PTT-31.8 ___
___ 10:42PM BLOOD Glucose-245* UreaN-111* Creat-2.5* Na-137 
K-4.1 Cl-93* HCO3-28 AnGap-20
___ 10:42PM BLOOD CK(CPK)-1144*
___ 10:42PM BLOOD Calcium-9.8 Phos-5.3* Mg-2.4
___ 10:42PM BLOOD CRP-7.2*

DISCHARGE LABS:

___ 10:19AM BLOOD WBC-17.7* RBC-3.66* Hgb-10.3* Hct-31.8* 
MCV-87 MCH-28.3 MCHC-32.5 RDW-15.2 Plt Ct-UNABLE TO 
___ 06:10AM BLOOD Glucose-173* UreaN-90* Creat-1.9* Na-142 
K-4.6 Cl-100 HCO3-26 AnGap-21*
___ 06:10AM BLOOD Calcium-9.3 Phos-4.4 Mg-2.5

IMAGING:
MR ___ CONTRAST Study Date of ___ 2:32 AM 
Wet Read by ___ on SAT ___ 4:17 AM 
Severe multilevel cervical spondylosis with multilevel disc 
bulges resulting in flattening of the spinal cord from C3 
through C7. Increased T2 signal in the left aspect of the spinal 
cord at the level of C2-3 either represents myelomalacia or cord 
edema however the lack of spinal cord enlargement at this level 
favors myelomalacia. No prevertebral soft tissue edema. Moderate 
anterolisthesis of C7 on T1. 
Scout views of the lumbar spine are included, however the 
patient aborted the examination prior to diagnostic quality 
images being obtained. There is evidence of prior lumbar spine 
surgery.
 
Brief Hospital Course:
___ y M with complicated medical hx including CAD s/o CABG, DM, 
COPD, CKD, CHF, ?autoimmune sz who presented with progressive 
back pain, generalized weakness and associated recent fall, 
found to have cord compression and admitted to medicine for 
optimization prior to surgery.  

ACTIVE MEDICAL ISSUES:
#Cord compression with cervical myelopathy: 
Pt presented with pain, increased weakness, and imaging findings 
with cervical spinal stenosis/cord compression. No bowel/bladder 
changes and mild tenderness to palpation. Pt went to OR on ___nterior approach. His pain was managed with 
oxycodone and APAP.  Pt was evaluated by ___ who recommended home 
with ___. Per ortho spine, plan for posterior approach surgery 
which will be done as an outpatient. Pt offered MRI L spine 
prior to discharge in preparation for surgery however he 
preferred to have as outpatient. Pt will also need outpatient 
follow up with cardiologist, vascular and PCP for surgical risk 
stratification

#Acute on chronic diastolic CHF: Patient with evidence of volume 
overload and mild respiratory symptoms on admission. He was 
diuresed prior to surgery. No ___ available since ___, when 
LVEF >55%. Pt's respiratory status improved prior to OR although 
received 1.8L intra-op. He was able to be weaned back to room 
air and restarted on home diuretics prior to discharge. He was 
continued on home ACE-in and beta blocker.

CHRONIC MEDICAL ISSUES:
#CAD:  Pt continued on home BB, ___, statin  

# Type 2 Diabetes Uncontrolled with Complications:  Pt continued 
on home glargine and HISS  

#CKD Stage 3: Baseline Cr appears to be in low 2s. BUN/Cr on 
admission slightly worse than prior but likely minimal change in 
GFR with Cr increased from 2.3->2.5. His Cr downtrended to 1.9 
on discharge.

#?Autoimmune dz: Unclear dx, chronically elevated CK and CRP 
with no significant change from ___.  

#Glacuoma: Pt continued on home Latanoprost

TRANSITIONAL ISSUES:
[] MRI L spine with and without contrast as outpatient prior to 
second stage of surgery
[] PCP risk stratification as well as follow up with vascular 
surgery for further risk stratification
[] Pt needs to wear c collar when ambulating or driving in car
[] Leukocytosis noted on discharge, likely in setting of recent 
surgery. Will need follow up cbc in ___ weeks as outpatient to 
ensure resolution
[] Pt's home 80 mg lasix restarted at discharge. He will also 
restart metolozone 5mg 2x per week.
[] Weight on discharge: 237 lb
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lisinopril 40 mg PO DAILY 
2. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
3. Zolpidem Tartrate ___ mg PO QHS insomnia 
4. Metoprolol Succinate XL 400 mg PO DAILY 
5. Pravastatin 80 mg PO QPM 
6. Furosemide 80 mg PO DAILY 
7. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4-6H:PRN pain 

8. alpha lipoic acid ___ mg oral daily 
9. Nystatin-Triamcinolone Cream 1 Appl TP BID 
10. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
11. Aspirin 325 mg PO DAILY 
12. Citalopram 20 mg PO DAILY 
13. Metolazone 5 mg PO 2X/WEEK (___) edema, wt gain 
14. Calcitriol 0.25 mcg PO 3X/WEEK (___) 
15. Glargine 84 Units Bedtime
Insulin SC Sliding Scale using HUM InsulinMax Dose Override 
Reason: Home dose

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Calcitriol 0.25 mcg PO 3X/WEEK (___) 
3. Citalopram 20 mg PO DAILY 
4. Furosemide 80 mg PO DAILY 
5. Glargine 84 Units Bedtime
Insulin SC Sliding Scale using HUM InsulinMax Dose Override 
Reason: Home dose

6. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
7. Lisinopril 40 mg PO DAILY 
8. Nystatin-Triamcinolone Cream 1 Appl TP BID 
9. Pravastatin 80 mg PO QPM 
10. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
11. alpha lipoic acid ___ mg oral daily 
12. Metolazone 5 mg PO 2X/WEEK (___) edema, wt gain 
13. Metoprolol Succinate XL 400 mg PO DAILY 
14. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4-6H:PRN 
pain 
15. Zolpidem Tartrate ___ mg PO QHS insomnia 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
PRIMARY:
Cervical spine cord compression
Acute on chronic systolic heart failure exacerbation

SECONDARY:
CAD
CKD
DM

 
Discharge Condition:
 
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you during your stay at ___ 
___. You were admitted to the hospital with neck and back 
pain. You were found to have a compression of your spinal cord. 
You had surgery to help fix this. You will need the second part 
of the surgery in ___ weeks with the spine surgeons. Before you 
have this surgery, it is very important that you come back to 
___ for an outpatient Lumbar MRI as we have discussed. Please 
call Dr. ___ office to schedule this as well as schedule 
your surgery. It is also very important that you wear your 
cervical collar when walking or driving in the car. This is very 
important. You will have a visiting nurse to help with wound 
care.

You were also found to be in heart failure when you came into 
the hospital. You received IV lasix (waterpill) to help get 
fluid off. Your breathing improved and you were put back on your 
oral lasix dose. Please be sure to weigh yourself daily and call 
you cardiologist if you weight changes by >3 lb. It is very 
important that you follow up with your cardiologist as an 
outpatient.

Sincerely,
Your ___ team
 
Followup Instructions:
___